US08563541B2
Step 5: 2-[3-(difluoromethyl)-5-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]imidazo[4,5-d]dipyrido[2,3-b: 4′,3′-f]azepin-3(8H)-ol
A mixture of (6Z)-5H-dipyrido[2,3-b:4′,3′-f]azepine-5,6(11H)-dione 6-oxime (1.00 g, 4.16 mmol), ammonium acetate (6.00 g, 77.8 mmol) and 3-(difluoromethyl)-5-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-4-carbaldehyde (2.50 g, 8.19 mmol) in acetic acid (6.0 mL, 0.106 mol) was stirred at 80° C. for 2 h. The reaction was partitioned between dichloromethane/isopropanol (5:1) and water and the organic extract was washed with NaHCO3, brine, dried (MgSO4) and concentrated in vacuo. The residue was used in the next reaction without purification. Mass spec: (EI) m/z=466 (M+1).

reactant | (6Z)-5H-dipyrido[2,3-b:4′,3′-f]azepine-5,6(11H)-dione 6-oxime | 4.16 mmol, 1.00 g | N1=CC=CC2=C1NC1=C(/C(/C2=O)=N/O)C=CN=C1 | C12H8N4O2
reactant | ammonium acetate | 77.8 mmol, 6.00 g | C(C)(=O)[O-].[NH4+]
reactant | 3-(difluoromethyl)-5-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-4-carbaldehyde | 8.19 mmol, 2.50 g | FC(C1=NN(C(=C1C=O)C)C1OCCCC1)F | C11H14F2N2O2
reactant | acetic acid | 0.106 mol, 6.0 mL | C(C)(=O)O | C2H4O2
product | 2-[3-(difluoromethyl)-5-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]imidazo[4,5-d]dipyrido[2,3-b: 4′,3′-f]azepin-3(8H)-ol | FC(C1=NN(C(=C1C=1N(C2=C(C3=C(NC4=C2C=CN=C4)N=CC=C3)N1)O)C)C1OCCCC1)F | C23H21F2N7O2
